CIRCUIT D:\INGEGNERIA\Microelectronics\Microwind4Cav\NotCarryGenerator\NotCarryGenerator.MSK
*
* IC Technology: CMOS 0.12µm - 6 Metal
*
VDD 1 0 DC 1.20
*
* List of nodes
* "notCarry" corresponds to n°3
* "N4" corresponds to n°4
* "N5" corresponds to n°5
* "N6" corresponds to n°6
* "N7" corresponds to n°7
* "N8" corresponds to n°8
* "b" corresponds to n°9
* "c" corresponds to n°10
* "a" corresponds to n°11
*
*
* Generators for a b c
Va 11 0 PULSE(0 1.2 0 10p 10p 500p 1n)
Vb 9 0 PULSE(0 1.2 0 10p 10p 1n 2n)
Vc 10 0 PULSE(0 1.2 0 10p 10p 2n 4n)
*
* Resistor for the n-part
Rn 3 0 5k
Cout 3 0 2fF
*
* MOS devices
MP1 1 9 8 1 P1  W= 1.44U L= 0.12U
MP2 1 11 7 1 P1  W= 1.44U L= 0.12U
MP3 8 10 3 1 P1  W= 1.44U L= 0.12U
MP4 7 10 3 1 P1  W= 1.44U L= 0.12U
MP5 3 10 6 1 P1  W= 1.44U L= 0.12U
MP6 3 10 5 1 P1  W= 1.44U L= 0.12U
MP7 6 9 1 1 P1  W= 1.44U L= 0.12U
MP8 5 11 1 1 P1  W= 1.44U L= 0.12U
MP9 1 11 4 1 P1  W= 3.48U L= 0.12U
MP10 4 9 3 1 P1  W= 3.48U L= 0.12U
*
C2 1 0  7.140fF
C3 3 0  1.806fF
C4 4 0  0.554fF
C5 5 0  0.240fF
C6 6 0  0.240fF
C7 7 0  0.240fF
C8 8 0  0.240fF
C9 9 0  0.478fF
C10 10 0  0.386fF
C11 11 0  0.464fF
*
*
* p-MOS Model 3:
* low leakage
.MODEL P1 PMOS LEVEL=3 VTO=-0.45 UO=200.000 TOX= 2.0E-9
+LD =0.000U THETA=0.300 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=110.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.tran 0 10n 0 1p
.PROBE
.END
