CIRCUIT D:\INGEGNERIA\Microelectronics\Microwind4Cav\NotCarryGenerator_V2\NotCarryGenerator_V2.MSK
*
* IC Technology: CMOS 0.12µm - 6 Metal
*
VDD 1 0 DC 1.20
*
* List of nodes
* "N3" corresponds to n°3
* "notCarry" corresponds to n°4
* "N5" corresponds to n°5
* "N6" corresponds to n°6
* "N8" corresponds to n°8
* "N9" corresponds to n°9
* "a" corresponds to n°16
* "c" corresponds to n°17
* "b" corresponds to n°18
* "phi" corresponds to n°19
*
* Generators for a b c
Va 16 0 PULSE(0 1.2 0 10p 10p 500p 1n)
Vb 18 0 PULSE(0 1.2 0 10p 10p 1n 2n)
Vc 17 0 PULSE(0 1.2 0 10p 10p 2n 4n)
*
* Output capacitor
Cout 4 0 2fF
*
* MOS devices
MN1 11 18 0 0 N1  W= 1.56U L= 0.12U
MN2 4 16 11 0 N1  W= 1.56U L= 0.12U
MN3 12 16 4 0 N1  W= 0.48U L= 0.12U
MN4 13 18 4 0 N1  W= 0.48U L= 0.12U
MN5 0 17 12 0 N1  W= 0.48U L= 0.12U
MN6 0 17 13 0 N1  W= 0.48U L= 0.12U
MN7 14 17 0 0 N1  W= 0.48U L= 0.12U
MN8 15 17 0 0 N1  W= 0.48U L= 0.12U
MN9 4 16 14 0 N1  W= 0.48U L= 0.12U
MN10 4 18 15 0 N1  W= 0.48U L= 0.12U
MP1 3 18 1 1 P1  W= 1.44U L= 0.12U
MP2 4 16 3 1 P1  W= 1.44U L= 0.12U
MP3 5 16 4 1 P1  W= 1.44U L= 0.12U
MP4 1 18 5 1 P1  W= 1.44U L= 0.12U
MP5 6 18 1 1 P1  W= 1.44U L= 0.12U
MP6 4 17 6 1 P1  W= 1.44U L= 0.12U
MP7 8 17 4 1 P1  W= 1.44U L= 0.12U
MP8 1 18 8 1 P1  W= 1.44U L= 0.12U
MP9 9 16 1 1 P1  W= 1.44U L= 0.12U
MP10 4 17 9 1 P1  W= 1.44U L= 0.12U
MP11 1 16 10 1 P1  W= 1.44U L= 0.12U
MP12 10 17 4 1 P1  W= 1.44U L= 0.12U
*
C2 1 0  6.072fF
C3 3 0  0.240fF
C4 4 0  2.566fF
C5 5 0  0.240fF
C6 6 0  0.240fF
C8 8 0  0.240fF
C9 9 0  0.240fF
C10 10 0  0.240fF
C11 11 0  0.272fF
C12 12 0  0.096fF
C13 13 0  0.096fF
C14 14 0  0.096fF
C15 15 0  0.096fF
C16 16 0  1.061fF
C17 17 0  1.093fF
C18 18 0  1.181fF
C19 19 0  0.014fF
*
* n-MOS Model 3 :
* low leakage
.MODEL N1 NMOS LEVEL=3 VTO=0.40 UO=600.000 TOX= 2.0E-9
+LD =0.000U THETA=0.500 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=120.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* low leakage
.MODEL P1 PMOS LEVEL=3 VTO=-0.45 UO=200.000 TOX= 2.0E-9
+LD =0.000U THETA=0.300 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=110.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.tran 0 10n 0 1p
.PROBE
.END
